* draft tc bench
.include '{{PDK}}/libs.tech/ngspice/design.spice'
.lib '{{PDK}}/libs.tech/ngspice/sm141064.spice' {{CORNER}}
.lib '{{PDK}}/libs.tech/ngspice/sm141064.spice' {{RES_CORNER}}
.param bjt_isa_typical=1    bjt_isa_ss=0.65 bjt_isa_ff=1.35 bjt_isa_sf=1 bjt_isa_fs=1
.param bjt_bfa_typical=1    bjt_bfa_ss=0.80 bjt_bfa_ff=1.2  bjt_bfa_sf=1 bjt_bfa_fs=1
.param bjt_ra_typical=1     bjt_ra_ss=1.2   bjt_ra_ff=0.8   bjt_ra_sf=1  bjt_ra_fs=1
.param bjt_cja_typical=1    bjt_cja_ss=1.15 bjt_cja_ff=0.85 bjt_cja_sf=1 bjt_cja_fs=1
.param isa=bjt_isa_{{CORNER}} bfa=bjt_bfa_{{CORNER}}
.param rba=bjt_ra_{{CORNER}} rea=bjt_ra_{{CORNER}} rca=bjt_ra_{{CORNER}} rbma=bjt_ra_{{CORNER}}
.param cjea=bjt_cja_{{CORNER}} cjca=bjt_cja_{{CORNER}}
.param mc_xis_vpnp=0 mc_xbf_vpnp=0 mc_xrb_vpnp=0 mc_xre_vpnp=0 mc_xrc_vpnp=0 mc_xcje_vpnp=0 mc_xcjc_vpnp=0
.lib '{{PDK}}/libs.tech/ngspice/sm141064.spice' bjt_mc
.temp {{TEMP_C}}
.include '{{NETLIST}}'
.param r2_length=1.02e-4
{{SIZING}}
vdd_src vdd 0 PWL(0 0 10u {{VDD}} 30u {{VDD}} 31u 2.97 40u 2.97 60u 3.63 65u 3.63)
xbg vref vdd 0 bandgap r2_length={r2_length}
.tran 100n 65u
.measure tran vref FIND v(vref) AT=30u
.measure tran vref_line_pp PP v(vref) FROM=40u TO=60u
.control
run
.endc
.end
